US08076348B2
A 156 mg portion of sodium borohydride was added to a 10 ml methanol suspension of 280 mg N-(diaminomethylene)-8-oxo-8H-indeno[2,1-b]thiophene-6-carboxamide, followed by stirring at room temperature for 30 minutes. After evaporation of the solvent, the solid precipitated by adding water was purified by Chromatorex (DMF/chloroform) to obtain 284 mg of N-(diaminomethylene)-8-hydroxy-8H-indeno[2,1-b]thiophene-6-carboxamide as a pale green solid.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | N-(diaminomethylene)-8-oxo-8H-indeno[2,1-b]thiophene-6-carboxamide | 280 mg | NC(=NC(=O)C1=CC=2C(C=3SC=CC3C2C=C1)=O)N | C13H9N3O2S
solvent | methanol | 10 ml | CO | CH4O
product | N-(diaminomethylene)-8-hydroxy-8H-indeno[2,1-b]thiophene-6-carboxamide | 284 mg | NC(=NC(=O)C1=CC=2C(C=3SC=CC3C2C=C1)O)N | C13H11N3O2S
